US08017630B2
2-[4-Dimethylamino-4-(3-fluorophenyl)cyclohexylidene]-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide
1-Hydroxybenzotriazole (1.43 g, 10.6 mmol), DL-α-methyltryptamine (923.3 mg, 5.3 mmol), N-methylmorpholine (1.07 g, 10.6 mmol) and dicyclohexylcarbodiimide (2.19 g, 10.6 mmol) were added to a solution of [4-dimethylamino-4-(3-fluoro-phenyl)-cyclohexylidene]acetic acid (1.4 g, 5.3 mmol) in dry dimethylformamide (50 ml) under argon and the mixture was stirred at RT for 6 d. Working up of the mixture was carried out by separating off the urea which had precipitated out and introducing the filtrate into a mixture of saturated NaCl solution (40 ml) and saturated NaHCO3 solution (10 ml). Still further urea thereby precipitated out and was separated off. The aqueous phase was diluted with water (300 ml), 5 M sodium hydroxide solution (7 ml, 35 mmol) was added and the mixture was stored at 5° C. for 20 h. The crude product thereby precipitated out as a yellow solid (1.2 g). The product was a mixture of the two diastereoisomer amides, which were separated by chromatography on silica gel G [100 g; EtOAc/MeOH (10:1)]. The less polar diastereoisomer was obtained in a yield of 410.6 mg (18%) with an m.p. of 163-166° C. and the more polar diastereoisomer was obtained in a yield of 249.3 mg (11%), as a colourless oil.

reactant | 1-Hydroxybenzotriazole | 10.6 mmol, 1.43 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | DL-α-methyltryptamine | 5.3 mmol, 923.3 mg | CC(CC1=CNC2=CC=CC=C21)N | C11H14N2
reactant | N-methylmorpholine | 10.6 mmol, 1.07 g | CN1CCOCC1 | C5H11NO
reactant | dicyclohexylcarbodiimide | 10.6 mmol, 2.19 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | [4-dimethylamino-4-(3-fluoro-phenyl)-cyclohexylidene]acetic acid | 5.3 mmol, 1.4 g | CN(C1(CCC(CC1)=CC(=O)O)C1=CC(=CC=C1)F)C | C16H20FNO2
reactant | sodium hydroxide | 35 mmol, 5 M, 7 ml | [OH-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | 2-[4-Dimethylamino-4-(3-fluorophenyl)cyclohexylidene]-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide | CN(C1(CCC(CC1)=CC(=O)NC(CC1=CNC2=CC=CC=C12)C)C1=CC(=CC=C1)F)C | C27H32FN3O
